US07759339B2
Methyl 1-(naphthalen-1-ylsulfonyl)piperidine-4-carboxylate
Methyl isonipecotate (1.0 g, 6.9 mmol), 1-naphthalenesulfonyl chloride (1.58 g, 6.9 mmol) and DMAP (0.17 g, 1.4 mmol) were dissolved in pyridine (10 mL). After stirring overnight, the reaction mixture was concentrated in vacuo, diluted with water (15 mL) and extracted into methylene chloride (3×10 mL). The combined organic extracts were dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting yellow oil was purified by column chromatography on SiO2 eluted with hexanes/ethyl acetate (1:1) to yield 1.7 g (73%)of the title compound as a white foam. 1H NMR (400 MHz, Chloroform-d) δ, ppm: 1.67-1.77 (m, 2 H), 1.93 (dd, J=13.64, 3.79 Hz, 2 H), 2.25-2.34 (m, 1 H), 2.68-2.77 (m, 2 H), 3.63 (s, 3 H), 3.74 (ddd, J=12.51, 3.66, 3.54 Hz, 2 H), 7.56-7.66 (m, 3 H), 7.92 (d, J=9.35 Hz, 1 H), 8.07 (d, J=8.34 Hz, 1 H), 8.21 (d, J=7.33 Hz, 1 H), 8.71 (d, J=8.08 Hz, 1 H); ESI-MS: m/z 334.3 (M+H)+.

reactant | Methyl isonipecotate | 6.9 mmol, 1.0 g | N1CCC(C(=O)OC)CC1 | C7H13NO2
reactant | 1-naphthalenesulfonyl chloride | 6.9 mmol, 1.58 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
catalyst | DMAP | 1.4 mmol, 0.17 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | Methyl 1-(naphthalen-1-ylsulfonyl)piperidine-4-carboxylate | 1.7 g, 73% | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N1CCC(CC1)C(=O)OC | C17H19NO4S
